US05527819
Step B: Ethyl 5-chloro-3-phenylsulfonylindole-2-carboximidate
5-Chloro-3-phenylsulfonylindole-2-carbonitrile is allowed to react with ethanol saturated with hydrogen chloride at 0°-10° C. for 7 days. Evaporation to dryness affords the title compound as a hydrochloride salt. The title compound is obtained as a free base by adding the reaction mixture to an ice cold solution of excess potassium carbonate and extracting the product with chloroform.

reactant | 5-Chloro-3-phenylsulfonylindole-2-carbonitrile | ClC=1C=C2C(=C(NC2=CC1)C#N)S(=O)(=O)C1=CC=CC=C1 | C15H9ClN2O2S
reactant | hydrogen chloride | Cl | ClH
reactant | ethanol | C(C)O | C2H6O
product | Ethyl 5-chloro-3-phenylsulfonylindole-2-carboximidate | ClC=1C=C2C(=C(NC2=CC1)C(OCC)=N)S(=O)(=O)C1=CC=CC=C1 | C17H15ClN2O3S
